data/oMe_Silver.jsonl
{"reaction_id": "NR-237_1-C(=O)c1ccccc1_2-c1ccc(F)cc1_3-c1ccc(C)cc1_4-c1ccc(F)cc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["C(=O)c1ccccc1N=[N+]=[N-]","P(c1ccc(F)cc1)(c1ccc(C)cc1)(c1ccc(F)cc1)"],"products_smiles": ["C(=O)c1ccccc1N","O=P(c1ccc(F)cc1)(c1ccc(C)cc1)(c1ccc(F)cc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N=[N+]=N[P+](c1ccc(F)cc1)(c1ccc(C)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N1N=NP1(c1ccc(F)cc1)(c1ccc(C)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)c1ccccc1N=P(c1ccc(F)cc1)(c1ccc(C)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)c1ccccc1[NH+]=P(c1ccc(F)cc1)(c1ccc(C)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N[P](O)(c1ccc(F)cc1)(c1ccc(C)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)c1ccccc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
{"reaction_id": "NR-001_1-COc1ccccc1_2-c1cccc2ccccc12","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(COc1ccccc1)(c1cccc2ccccc12)C=O","C(COc1ccccc1)(c1cccc2ccccc12)C=O"],"products_smiles": ["C(COc1ccccc1)(c1cccc2ccccc12)C(O)C(COc1ccccc1)(c1cccc2ccccc12)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(c1cccc2ccccc12)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(COc1ccccc1)(c1cccc2ccccc12)C([O-])C(COc1ccccc1)(c1cccc2ccccc12)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(c1cccc2ccccc12)C(O)C(COc1ccccc1)(c1cccc2ccccc12)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
